US07417169B2
2,2,2-Trifluoro-N-[(1S,2R)-2-hydroxy-2-(4-hydroxy-3-nitrophenyl)-1-methylethyl]acetamide
To a solution of 2,2,2-trifluoro-N-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]acetamide (26.9 g) in acetic acid (85 mL) was added dropwise 70% nitric acid (6.78 mL) at room temperature with stirring. The mixture was stirred for 15 minutes at that temperature. The resulting mixture was poured into ice-water (500 g), and ethyl acetate was added. The organic layer was separated, washed successively with saturated aqueous solution of sodium bicarbonate and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium-pressure liquid silica gel column chromatography (eluent: n-hexane/ethyl acetate=2/1) to afford the title compound (33.5 g).

reactant | 2,2,2-trifluoro-N-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]acetamide | 26.9 g | FC(C(=O)N[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)(F)F | C11H12F3NO3
reactant | nitric acid | 6.78 mL | [N+](=O)(O)[O-] | HNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 85 mL | C(C)(=O)O | C2H4O2
product | 2,2,2-Trifluoro-N-[(1S,2R)-2-hydroxy-2-(4-hydroxy-3-nitrophenyl)-1-methylethyl]acetamide | 33.5 g | FC(C(=O)N[C@H]([C@@H](C1=CC(=C(C=C1)O)[N+](=O)[O-])O)C)(F)F | C11H11F3N2O5
